US07968554B2
A solution of 3-chloro-4-fluoro-N-(3-hydroxy-4-methyl-phenyl)-benzamide (1.0 g, 3.58 mmol, from above) in dimethylsulfoxide (5.0 mL) was treated with ethanolamine (10.0 mL) (Aldrich) and heated at 140° C. for 50 minutes in a microwave reactor. The reaction mixture was then partitioned between ethyl acetate and water. The aqueous phase was acidified with 2N hydrochloric acid. The precipitate was filtered, washed with water and dried. The aqueous phase was extracted with ethyl acetate (2×). The combined organic phase was washed with water and brine, dried (magnesium sulfate) and concentrated. The two solid samples were combined and dried to give 3-chloro-4-(2-hydroxy-ethylamino)-N-(3-hydroxy-4-methyl-phenyl)-benzamide. (Yield 1.13 g).

reactant | 3-chloro-4-fluoro-N-(3-hydroxy-4-methyl-phenyl)-benzamide | 3.58 mmol, 1.0 g | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)C)O)C=CC1F | C14H11ClFNO2
reactant | ethanolamine | 10.0 mL | C(O)CN | C2H7NO
solvent | dimethylsulfoxide | 5.0 mL | CS(=O)C | C2H6OS
product | 3-chloro-4-(2-hydroxy-ethylamino)-N-(3-hydroxy-4-methyl-phenyl)-benzamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)C)O)C=CC1NCCO | C16H17ClN2O3
